US06797725B2
To a solution of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 3-(dimethoxy-phosphonooxy)-2-hydroxy-propyl ester (60 mg, 0.4 mmol) in 1.5 mL of acetonitrile and 1.5 mL of dichloromethane was added 52 μl (0.40 mmol) of TMSBr dropwise. The reaction mixture was stirred for 6 h at room temperature and concentrated. The residue was quenched with 0.05 mL of water followed by 1.5 mL of EtOAc. The resultant mixture was centrifuged and the solvent was decanted. The precipitate was washed twice with ethyl acetate and dried to afford 120 mg (62%) of 3-[1-(3,5-dim ethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-hydroxy-3-phosphonooxy-propyl ester as an orange solid. 1H NMR (400 MHz, DMSO-d6) δ 12.61 (s, 1H, NH-1′), 7.84 (dd, J=2.4, 8.0 Hz, 1H, H-4), 7.79 (dd, J=2.2, 6.8 Hz, 1H, H-7), 7.64 (s, 1H, H-vinyl), 7.16-7.21 (m, 2H, H-5, 6), 6.11 (s, br, 1H, H-4′), 4.40 (dd, J=4.0, 10.8 Hz, 1H), 4.32 (dd, J=5.8, 11.2 Hz, 1H), 4.00-4.05 (m, 1H), 3.90-3.93 (m, 2H), 2.37 (s, 3H, CH3), 2.33 (s, 3H, CH3). 31P NMR(162 MHz, d6-DMSO) δ 0.16.

reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 3-(dimethoxy-phosphonooxy)-2-hydroxy-propyl ester | 0.4 mmol, 60 mg | COOP(=O)(OOC)OCC(COC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O)O | C21H25N2O10P
reactant | TMSBr | 0.40 mmol, 52 μl | C[Si](C)(C)Br | C3H9BrSi
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 3-[1-(3,5-dim ethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-hydroxy-3-phosphonooxy-propyl ester | 120 mg, 62% | OC(COC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O)COP(=O)(O)O | C19H21N2O8P
